US08791132B2
To a degassed solution of 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.29 mmol), 5-methylthiophene-2-boronic acid pinacol ester (100 mg, 0.575 mmol) and potassium carbonate (120 mg, 0.87 mmol) in 1,2-DME (4 mL) and water (2 mL) was added Pd(PPh3)4 (17 mg, 0.0147 mmol). The reaction mixture was heated at 90° C. for 45 min. The reaction mixture was concentrated under reduced pressure and the residue diluted with water (20 mL) and extracted with EtOAc (50 mL). The organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was purified by reverse phase HPLC to yield 2,8-dimethyl-5-(2-(5-methylthiophen-2-yl)cyclopent-1-enyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR, (CD3OD, TFA salt) δ (ppm): 7.3 (s, 1H), 7.0 (m, 2H), 6.71 (d, 1H), 6.58 (d, 1H), 4.72 (m, 1H), 4.4 (m, 1H), 3.8 (m, 1H), 3.51 (m, 1H), 3.12 (s, 3H), 3.03 (m, 4H), 2.8 (m, 2H), 2.4 (s, 3H), 2.2-2.3 (m, 5H).

reactant | 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.29 mmol, 100 mg | BrC1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C18H21BrN2
reactant | 5-methylthiophene-2-boronic acid pinacol ester | 0.575 mmol, 100 mg | CC1=CC=C(S1)B1OC(C)(C)C(C)(C)O1 | C11H17BO2S
reactant | potassium carbonate | 0.87 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.0147 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,8-dimethyl-5-(2-(5-methylthiophen-2-yl)cyclopent-1-enyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)C2=C(CCC2)C=2SC(=CC2)C)CC1 | C23H26N2S
